US06004897
Synthesis of dimethyl(3-methyl-1-indenyl)(9-fluorenyl)silane
A 200 ml four-necked flask equipped with a reflux tube, a thermometer and a dropping funnel was thoroughly purged with nitrogen and dried. To the flask, dimethyl(1-indenyl)(9-fluorenyl)silane (2.00 g, 5.91 mmol) synthesized above and dehydrated ether (50 ml) were introduced. To the flask was dropwise added a hexane solution of n-butyllithium (6.21 mmol) at -40° C. with stirring. The temperature of the reaction liquid was allowed to spontaneously and slowly rise to room temperature. After stirring over night, the reaction liquid became a yellow solution. To the solution, methyl iodide (3.78 g, 26.6 mmol) was added and the temperature of the system was allowed to spontaneously and slowly rise to room temperature, followed by stirring for one day. The reaction liquid became an orange solution. To the resulting solution, 100 ml of ether and 100 ml of a saturated aqueous solution of ammonium chloride were added and the mixture was introduced into a separatory funnel to separate an organic phase. The organic phase was washed with water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After the solvent was distilled off, it was purified by column chromatography (developer: hexane) to obtain two kinds of isomers (one was a colourless transparent liquid, the other was a yellow liquid) totalling to 1.85 g (yield: 89%).

reactant | dimethyl(1-indenyl)(9-fluorenyl)silane | 5.91 mmol, 2.00 g | C[Si](C1C2=CC=CC=C2C=2C=CC=CC12)(C1C=CC2=CC=CC=C12)C | C24H22Si
reactant | n-butyllithium | 6.21 mmol | C(CCC)[Li]
reactant | methyl iodide | 26.6 mmol, 3.78 g | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 50 ml | CCOCC | C4H10O
product | dimethyl(3-methyl-1-indenyl)(9-fluorenyl)silane | yield: 89% | C[Si](C1C2=CC=CC=C2C=2C=CC=CC12)(C1C=C(C2=CC=CC=C12)C)C | C25H24Si
